US07622469B2
3,6-Dihydro-6,6-dimethyl-4-decylamino-2-benzylamino-1,3,5-triazine acetate
110 ml of methanol, 80ml of acetone and 0.5 ml of concentrated hydrochloric acid were added to 6.8 g (16.9 mmol) of N1-benzyl-N5-decyl-biguanide dihydrochloride. The mixture was refluxed for 22 hours, and the solvent was distilled off under reduced pressure, and the residue was dissolved in 100 ml of ethanol. To the solution were added 80 ml of water and 7 ml of 5N aqueous sodium hydroxide. The mixture was refluxed for 1.5 hours, concentrated under reduced pressure, and extracted with ethyl acetate. The extract was washed with water, and the solvent was distilled off under reduced pressure. The residue was recrystallized from ethanol/ether to obtain 2.9 g of colorless crystals having a melting point of 106 to 108° C.

reactant | methanol | 110 ml | CO | CH4O
reactant | hydrochloric acid | 0.5 ml | Cl | ClH
reactant | N1-benzyl-N5-decyl-biguanide dihydrochloride | 16.9 mmol, 6.8 g | Cl.Cl.C(C1=CC=CC=C1)NC(=N)NC(=N)NCCCCCCCCCC
reactant | acetone | 80ml | CC(=O)C | C3H6O
product | 3,6-Dihydro-6,6-dimethyl-4-decylamino-2-benzylamino-1,3,5-triazine acetate | 2.9 g | C(C)(=O)O.CC1(N=C(NC(=N1)NCC1=CC=CC=C1)NCCCCCCCCCC)C | InChI=1S/C22H37N5.C2H4O2/c1-4-5-6-7-8-9-10-14-17-23-20-25-21(27-22(2,3)26-20)24-18-19-15-12-11-13-16-19;1-2(3)4/h11-13,15-16H,4-10,14,17-18H2,1-3H3,(H3,23,24,25,26,27);1H3,(H,3,4)
